US09227973B2
Step B: (6S)—N-[(5S,6S,9R)-5-Amino-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl]-2′-oxo-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridine]-3-carboxamide
(6S)—N-[(5S,6S,9R)-5-Azido-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl]-2′-oxo-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridine]-3-carboxamide (13 mg, 0.022 mmol) was azeotroped with dry toluene and dried under high vacuum. The azide was dissolved in THF (1 mL), trimethylphosphine (1 M in toluene, 0.25 mL, 0.25 mmol) was added, and the resulting solution was stirred at ambient temperature for 1.5 h. The reaction solution was concentrated to dryness in vacuo, resuspended in THF (2 mL) and water (0.5 mL) and heated at 85° C. in a sealed vial for 4 h. The mixture was allowed to cool, most of the THF was removed by evaporation and the residual solution was purified by reversed-phase HPLC on a C-18 column, eluting with a gradient of H2O:CH3CN:TFA-95:5:0.1 to 0:100:0.1. Product-containing fractions were combined and neutralized with saturated aqueous sodium bicarbonate and the acetonitrile was removed by evaporation under reduced pressure. The resulting mixture was extracted with ethyl acetate (2×50 mL) and the combined organic layers were dried over sodium sulfate, filtered, and concentrated under reduced pressure to give the title compound. MS: m/z=553.3 (M+1). 1H NMR (400 MHz, CD3OD) δ 8.95 (d, 1H, J=2.0 Hz); 8.48 (dd, 1H, J=4.9, 1.6 Hz); 8.24 (d, 1H, J=2.0 Hz); 8.08 (dd, 1H, J=5.3, 1.6 Hz); 8.00 (d, 1H, J=7.9 Hz); 7.42-7.35 (m, 2H); 7.28 (s, 1H); 7.25-7.15 (m, 2H); 6.96 (dd, 1H, J=7.4, 5.3 Hz); 5.58 (dd, 1H, J=10.1, 3.3 Hz); 4.74 (d, 1H, J=9.4 Hz); 3.65-3.55 (m, 2H); 3.40-3.30 (m, 2H); 3.06 (br s, 1H); 2.41-2.24 (m, 2H); 2.04-1.94 (m, 1H); 1.71-1.53 (m 1H).

reactant | (6S)—N-[(5S,6S,9R)-5-Azido-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl]-2′-oxo-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridine]-3-carboxamide | 0.022 mmol, 13 mg | N(=[N+]=[N-])[C@H]1[C@@H](CC[C@H](C2=NC=CC=C21)NC(=O)C=2C=C1C(=NC2)C[C@@]2(C(NC3=NC=CC=C32)=O)C1)C1=C(C(=CC=C1)F)F | C31H24F2N8O2
reactant | trimethylphosphine | 0.25 mmol, 1 M, 0.25 mL | CP(C)C | C3H9P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (6S)—N-[(5S,6S,9R)-5-Amino-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl]-2′-oxo-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridine]-3-carboxamide | N[C@H]1[C@@H](CC[C@H](C2=NC=CC=C21)NC(=O)C=2C=C1C(=NC2)C[C@@]2(C(NC3=NC=CC=C32)=O)C1)C1=C(C(=CC=C1)F)F | C31H26F2N6O2
